US04474754
3.12 Grams of Z-Leu-Gly-OC2H5 was dissolved in 50 ml of methanol and 8.90 ml of 1N hydrochloric acid and the solution was catalytically reduced by using palladium as the catalyst to obtain H-Leu-Gly-OC2H5.

reactant | Z-Leu-Gly-OC2H5 | N([C@@H](CC(C)C)C(=O)NCC(=O)OCC)C(=O)OCC1=CC=CC=C1 | C18H26N2O5
reactant | hydrochloric acid | 1N, 8.90 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | H-Leu-Gly-OC2H5 | N[C@@H](CC(C)C)C(=O)NCC(=O)OCC | C10H20N2O3
